US05192799
Production of heptylacetamide
Heptylamine (39 g; 0.34 mole was added dropwise to 46.6 g (0.59 mole) of pyridine and 43.4 g (0.43 mole) of acetic anhydride over 30 minutes, and the mixture was further stirred for 2 hours. After the reaction, the mixture was concentrated and extracted by adding water and ether. The ethereal layer was washed successively with a saturated aqueous solution of sodium hydrogen carbonate and then a saturated aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulfate and concentrated to give 51 g of the desired compound yield 96 %).

reactant | Heptylamine | C(CCCCCC)N | C7H17N
reactant | pyridine | 0.59 mole, 46.6 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.43 mole, 43.4 g | C(C)(=O)OC(C)=O | C4H6O3
product | heptylacetamide | 51 g, yield 96 % | C(CCCCCC)CC(=O)N | C9H19NO
